* pre-layout sim netlist for pam4drv_msb_lay — same devices as the LVS reference, on the PDK models
* (rsil / cap_cmim / npn13G2 subckts; tails + sub are ports)
.subckt pam4drv_msb_lay inp inn outp outn vcc vcasc vcmb tail0 tail1 sub
XQ1M0 c1M0 inp e1M0 sub npn13G2 Nx=3
XQ2M0 c2M0 inn e2M0 sub npn13G2 Nx=3
XQ3M0 outp vcasc c1M0 sub npn13G2 Nx=3
XQ4M0 outn vcasc c2M0 sub npn13G2 Nx=3
XQ1M1 c1M1 inp e1M1 sub npn13G2 Nx=3
XQ2M1 c2M1 inn e2M1 sub npn13G2 Nx=3
XQ3M1 outp vcasc c1M1 sub npn13G2 Nx=3
XQ4M1 outn vcasc c2M1 sub npn13G2 Nx=3
XRRE1M0 e1M0 tail0 sub rsil w=4.61u l=0.85u m=1
XRRE2M0 e2M0 tail0 sub rsil w=4.61u l=0.85u m=1
XRRE1M1 e1M1 tail1 sub rsil w=4.61u l=0.85u m=1
XRRE2M1 e2M1 tail1 sub rsil w=4.61u l=0.85u m=1
XRRbinp inp vcmb sub rsil w=0.58u l=2.85u m=1
XRRbinn inn vcmb sub rsil w=0.58u l=2.85u m=1
XRRcp outp vcc sub rsil w=1.01u l=5.43u m=1
XRRcn outn vcc sub rsil w=1.01u l=5.43u m=1
XCdegM0 e2M0 e1M0 cap_cmim w=3.45u l=3.45u
XCdegM1 e2M1 e1M1 cap_cmim w=3.45u l=3.45u
.ends
